datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18],-7.1128
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([c:1]1[c:2][c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:10][C:15]([H:16])([H:17])[H:18],59.2270304
[C:0]([C:1]([O:2][H:11])([C:3]([N:4]([H:13])[H:14])([C:5](=[O:6])[H:15])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([O:2][H:11])[H:10])([H:8])[H:9].[C:3]([N:4]([H:13])[H:14])(=[C:5]([O:6][H:7])[H:15])[H:12],213.544
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]=[S:9])([H:10])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:10])([H:11])[H:12])=[S:9],46.8608
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:6],31.4637
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21](=[S:22])[H:27])[H:26])([H:23])([H:24])[H:25]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:23])([H:24])[H:25])([C:21](=[S:22])[H:27])[H:26],33.0536
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:22])([H:23])[H:24])([C:14]([C:15]([H:26])([H:27])[H:28])[c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:25])[H:7])([H:5])[H:6],68.7431
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[H:7])[H:6],3.09616
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:8])[H:7],6.15048
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:8])([H:6])[H:7],26.401
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[O:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:17],32.8444
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][H:7]>>[C:0]([O:1][O:6][H:7])([H:2])([H:3])[H:4].[H:5],276.306
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[O:13]>>[H:9][O:13].[O:0]([c:1]1[c:2]([H:8])[c:3][c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7],61.5048
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:11])[H:10])([H:8])[H:9],7.9496
[H:0].[O:1][C:2]1([H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11]>>[H:0][O:1][C:2]1([H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11],0.0
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([H:13])[H:14])([O:4][O:5][H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],140.164
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[H:9]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[H:9])[H:5],11.6315
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:13])[H:5].[C:8](=[C:9][C:10]([H:14])([H:15])[H:16])([H:11])[H:12],97.4872
